US06680316B1
Preparation of 5,6-bis(4-Methoxyphenyl)-4-cyano-2-cyclopentylmethyl-2H-pyridazin-3-one
Using 5,6-bis(4-methoxyphenyl)-4-cyano-2H-pyridazin-3-one and cyclopentylmethyl chloride as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 42.4%.

reactant | 5,6-bis(4-methoxyphenyl)-4-cyano-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=C(C(NN=C1C1=CC=C(C=C1)OC)=O)C#N | C19H15N3O3
reactant | cyclopentylmethyl chloride | C1(CCCC1)CCl | C6H11Cl
product | 5,6-bis(4-Methoxyphenyl)-4-cyano-2-cyclopentylmethyl-2H-pyridazin-3-one | yield of 42.4% | COC1=CC=C(C=C1)C1=C(C(N(N=C1C1=CC=C(C=C1)OC)CC1CCCC1)=O)C#N | C25H25N3O3
